US07109192B2
3b) 4-amino-2-chloro-3-nitropyridine
A solution of 28.0 g (0.193 mol) of 2,4-dichloro-3-nitropyridine in 300 ml of ammonia-saturated ethanol was stirred for four days at ambient temperature, then evaporated to dryness and the crude product thus obtained was purified by column chromatography (silica gel, eluant:dichloromethane with 0–5% ethanol).

reactant | 2,4-dichloro-3-nitropyridine | 0.193 mol, 28.0 g | ClC1=NC=CC(=C1[N+](=O)[O-])Cl | C5H2Cl2N2O2
reactant | ammonia | 300 ml | N | H3N
product | 4-amino-2-chloro-3-nitropyridine | Yield: 71% | NC1=C(C(=NC=C1)Cl)[N+](=O)[O-] | C5H4ClN3O2
